US06084104
Ten grams (30.9 mmols) of crude 2-(3'-N,N-diethylaminomethyl-2'-hydroxy-5'-methylphenyl)-2H-benzotriazole obtained following the procedures of Synthesis Example 1 and 10.0 g (30.9 mmols) of 2-(2'-hydroxy-5'-methacryloyloxyethylphenyl)-2H-benzotriazole were dissolved in 64 ml of xylene, and 1.5 ml of a 28% sodium methylate-methanol solution were added thereto. The mixture was then refluxed in a nitrogen stream for 10 hours. After the completion of the reaction, the reaction mixture was cooled to room temperature. Yellow crystals precipitated at this stage were separated through filtration, and recrystallized from chloroform to obtain 12.4 g of 6-(2H-benzotriazol-2-yl)-4-methacryloyloxyethyl-2-[3'-(2H-benzotriazol-2-yl)-2'-hydroxy-5'-methylphenyl]methylphenol (hereinafter abbreviated as "RUVA-1") as white crystals (yield 70.7%, purity 98.6%).

reactant | 2-(2'-hydroxy-5'-methacryloyloxyethylphenyl)-2H-benzotriazole | 30.9 mmols, 10.0 g | OC1=C(C=C(C=C1)CCOC(C(=C)C)=O)N1N=C2C(=N1)C=CC=C2 | C18H17N3O3
reactant | sodium methylate methanol | C[O-].[Na+].CO
solvent | xylene | 64 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(2H-benzotriazol-2-yl)-4-methacryloyloxyethyl-2-[3'-(2H-benzotriazol-2-yl)-2'-hydroxy-5'-methylphenyl]methylphenol | 12.4 g, yield 70.7% | N=1N(N=C2C1C=CC=C2)C2=CC(=CC(=C2O)CC2=C(C(=CC(=C2)C)N2N=C1C(=N2)C=CC=C1)O)CCOC(C(=C)C)=O | C32H28N6O4
